US08193236B2
(5-Cyano-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester
A mixture of (5-bromo-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester (6.8 g, 22.9 mmol) and CuCN (3.1 g, 34.3 mmol) in anhydrous DMF (20 mL) is heated for 16 h at reflux (165° C.) under an argon atmosphere. After cooling to room temperature a solution of NaCN (5.8 g, 114 mmol) in water (30 mL) is added. The reaction mixture is partitioned between water and toluene, the layers are separated and the aqueous phase is extracted with toluene. The combined organic layers are washed with a 10% aqueous NaCN solution and brine, dried over Na2SO4, filtered and concentrated at reduced pressure to afford the title compound as a brown solid (4.31 g, 17.7 mmol, 77%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.82 (d, J=1.7 Hz, 1H), 7.51-7.43 (m, 2H), 4.16 (q, J=7.1 Hz, 2H), 3.59 (s, 2H), 2.46 (s, 3H), 1.26 (t, J=7.1 Hz, 3H). MS (ES+): 244 (M(Cl4H13NO3)+H)+.

reactant | (5-bromo-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester | 22.9 mmol, 6.8 g | C(C)OC(CC1=C(OC2=C1C=C(C=C2)Br)C)=O | C13H13BrO3
reactant | CuCN | 34.3 mmol, 3.1 g | C(#N)[Cu]
reactant | NaCN | 114 mmol, 5.8 g | [C-]#N.[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (5-Cyano-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester | 17.7 mmol, 4.31 g, 77% | C(C)OC(CC1=C(OC2=C1C=C(C=C2)C#N)C)=O | C14H13NO3
